US08685970B2
Step 3) Preparation of N-((2-(3-(trifluoromethyl)phenyl)quinolin-8-yl)methyl)cyclopentanamine
A solution of 8-(chloromethyl)-2-(3-(trifluoromethyl)phenyl)quinoline (70 mg, 0.22 mmol), cyclopentylamine (0.1 ml, 1.09 mmol) and DIPEA (0.18 ml, 1.09 mmol) in acetonitrile (2 ml) was stirred at 100° C. under microwave for 10 min. The mixture was concentrated. Purified by Prep-TLC to give a white solid (74.8 mg, 91% yield). MS (ESI) calcd for C22H21F3N2 (m/z): 370.17. found: 371 [M+1].

reactant | 8-(chloromethyl)-2-(3-(trifluoromethyl)phenyl)quinoline | 0.22 mmol, 70 mg | ClCC=1C=CC=C2C=CC(=NC12)C1=CC(=CC=C1)C(F)(F)F | C17H11ClF3N
reactant | cyclopentylamine | 1.09 mmol, 0.1 ml | C1(CCCC1)N | C5H11N
reactant | DIPEA | 1.09 mmol, 0.18 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-((2-(3-(trifluoromethyl)phenyl)quinolin-8-yl)methyl)cyclopentanamine | 74.8 mg, 91% yield | FC(C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)CNC1CCCC1)(F)F | C22H21F3N2
